US04640708
1-(3-Chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)but-1-en-3-one (3.2 g) was heated at reflux with sodium diethyl malonate (1.1 equiv) in dry absolute ethanol (50 ml) for 3 hr. The solvent was evaporated and the residue was thoroughly dried (100° C.; <0.1 mmHg). Dry dimethylformamide (30 ml) was added and the mixture was heated to 60° C. under nitrogen. n-Butyric anhydride (1.1 equiv) was added and the mixture was heated at 100° C. for 20 min. The solvent was evaporated under reduced pressure and the residue was heated at reflux with an aqueous potassium hydroxide solution (2 equiv; 30 ml) for 4 hr. After cooling, the mixture was extracted with diethyl ether. The aqueous layer was recovered and was heated to ca 80° C. The solution was acidified (to pH 5) by dropwise addition of a dilute hydrochloric acid solution. After cooling, the mixture was extracted with diethyl ether. The residue obtained after evaporation of the dried (MgSO4) organic extract was purified by column chromatography over silica gel with dichloromethane/ethyl acetate (9:1 v/v) elution to give 2-butyryl-5-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)-3-hydroxycyclohex-2-en-1-one as a pale yellow oil.

reactant | 1-(3-Chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)but-1-en-3-one | 3.2 g | ClC=1N=C(C=2CCCCC2C1C=CC(C)=O)C | C14H16ClNO
reactant | sodium diethyl malonate | 1.1 equiv | C(CC(=O)OCC)(=O)OCC.[Na]
reactant | n-Butyric anhydride | 1.1 equiv | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | potassium hydroxide | 30 ml, 2 equiv | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-butyryl-5-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)-3-hydroxycyclohex-2-en-1-one | C(CCC)(=O)C=1C(CC(CC1O)C1=C(N=C(C=2CCCCC12)C)Cl)=O | C20H24ClNO3
